US04212809
19.90 g (0.11 mol) of 5-(2-propenyl)-1,3-benzodioxole were initially introduced into a double-walled flask having a stirrer and reflux condenser and are warmed to 40° C. 43.58 g (0.10 mol) of a 20.58% strength solution of perpropionic acid in benzene were added dropwise, whilst stirring, and stirring was continued at this temperature for a further 5 hours. Titrimetric analysis then showed a peracid conversion of 98%. Analysis of gas chromatography gave a selectivity for the 5-(oxiranylmethyl)-1,3-benzodioxole formed of 61%.

reactant | 5-(2-propenyl)-1,3-benzodioxole | 0.11 mol, 19.90 g | C(C=C)C1=CC2=C(OCO2)C=C1 | C10H10O2
reactant | perpropionic acid | CCC(=O)OO | C3H6O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(oxiranylmethyl)-1,3-benzodioxole | O1C(C1)CC1=CC2=C(OCO2)C=C1 | C10H10O3
